US07745641B2
In a similar manner to Step 2 of Example 6, 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-4-formylindol-2-yl]isoindolinone (0.262 g, 1.17 mmol) was dissolved in acetonitrile (15.0 mL), and the solution was treated with 2.0 mol/L methylamine-THF solution (5.20 mL, 10.5 mmol), acetic acid (0.600 mL, 10.5 mmol) and sodium triacetoxyborohydride (0.555 g, 2.62 mmol), followed by purification of the residue by flash column chromatography (chloroform/methanol=3/1) to obtain 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-4-(dimethylaminomethyl)indol-2-yl]isoindolinone (0.0839 g, 30%).

reactant | 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-4-formylindol-2-yl]isoindolinone | 1.17 mmol, 0.262 g | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=CC(=C2C1)C=O)C(=O)OC(C)(C)C)=O | C24H24N2O8S
reactant | methylamine THF | 10.5 mmol, 2.0 mol/L, 5.20 mL | CN.C1CCOC1
reactant | acetic acid | 10.5 mmol, 0.600 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.62 mmol, 0.555 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetonitrile | 15.0 mL | C(C)#N | C2H3N
product | 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-4-(dimethylaminomethyl)indol-2-yl]isoindolinone | 0.0839 g, 30% | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=CC(=C2C1)CN(C)C)C(=O)OC(C)(C)C)=O | C26H31N3O7S
